data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4039,4624,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C:19]#[N+:20][NH-:21]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[NH:21][N:20]=[C:19]2[C:17]([NH:16][CH3:15])=[O:18],water,298.15,12.727613708696936,-36.176220207647866
1013,1106,[CH3:13][C:14](=[O:15])[N:16]=[NH+:17][N-:18][c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([F:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([F:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[N:16]([C:14]([CH3:13])=[O:15])[NH:17][N:18]2[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1,water,298.15,31.47506885645986,-12.6909219709624
4432,5064,[CH3:10][NH:11][C:12](=[O:13])[C:14]#[N+:15][C-:16]([C:17]([CH3:18])=[O:19])[C:20](=[O:21])[O:22][CH3:23].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])=[N:15][C:16]1([C:17]([CH3:18])=[O:19])[C:20](=[O:21])[O:22][CH3:23],water,298.15,16.535097595890587,-28.195945043427766
3392,3852,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][NH:8][C:9](=[O:10])[CH-:11][NH+:12]=[CH:13][C:14](=[O:15])[O:16][CH3:17]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[CH:13]([C:14](=[O:15])[O:16][CH3:17])[NH:12][CH:11]1[C:9]([NH:8][CH3:7])=[O:10],water,298.15,17.265901418062718,-16.372890116150813
4739,5412,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([C:18](=[O:19])[O:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:17]([C:18](=[O:19])[O:20][CH3:21])([C:22](=[O:23])[O:24][CH3:25])[N:16]=[C:15]2[C:13]([NH:12][CH3:11])=[O:14],water,298.15,13.627326402054653,-32.96259720397597
314,341,[CH3:1][C:2]#[C:3][C:4](=[O:5])[NH:6][CH3:7].[CH3:8][O:9][C:10](=[O:11])[C-:12]([NH+:13]=[C:14]([CH3:15])[CH3:16])[C:17]([CH3:18])=[O:19]>>[CH3:1][C:2]1=[C:3]([C:4](=[O:5])[NH:6][CH3:7])[C:12]([C:10]([O:9][CH3:8])=[O:11])([C:17]([CH3:18])=[O:19])[NH:13][C:14]1([CH3:15])[CH3:16],water,298.15,29.179736032402825,-28.099557923731947
355,385,[CH3:11][O:12][C:13](=[O:14])[N-:15][N+:16]#[C:17][C:18]([CH3:19])=[O:20].[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][C:2]12[C:3]([C:4]#[N:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:17]([C:18]([CH3:19])=[O:20])=[N:16][N:15]2[C:13]([O:12][CH3:11])=[O:14],water,298.15,17.345721068720177,-41.4555752935981
1660,1832,[CH3:13][NH:14][C:15](=[O:16])[CH-:17][NH+:18]=[C:19]([C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([CH3:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[CH:17]([C:15]([NH:14][CH3:13])=[O:16])[NH:18][C:19]2([C:20]([CH3:21])=[O:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1,water,298.15,11.918893202072187,-16.839353270503207
4889,5573,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][NH:12][C:13](=[O:14])[C-:15]([O+:16]=[C:17]([C:18]#[N:19])[C:20]([CH3:21])=[O:22])[C:23](=[O:24])[NH:25][CH3:26]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:23](=[O:24])[NH:25][CH3:26])[O:16][C:17]2([C:18]#[N:19])[C:20]([CH3:21])=[O:22],water,298.15,11.382924778847832,-40.55772723234252
2925,3260,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][O:6][C:7](=[O:8])[N-:9][N+:10]#[N:11]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[N:9]([C:7]([O:6][CH3:5])=[O:8])[N:10]=[N:11]1,water,298.15,27.53381242000432,-15.278365748674643
3975,4548,[CH3:9][O:10][C:11](=[O:12])[C-:13]([N+:14]#[C:15][C:16]([CH3:17])=[O:18])[C:19]([CH3:20])=[O:21].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@@H:5]([C:6](=[O:7])[O-:8])[C:13]([C:11]([O:10][CH3:9])=[O:12])([C:19]([CH3:20])=[O:21])[N:14]=[C:15]1[C:16]([CH3:17])=[O:18],water,298.15,16.31600506978333,-31.82011159274149
4179,4782,[CH3:10][NH:11][C:12](=[O:13])[N-:14][O+:15]=[CH:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[CH:16]([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[O:15][N:14]1[C:12]([NH:11][CH3:10])=[O:13],water,298.15,20.1403902090142,-27.40687945991477
4156,4759,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][O:8][C:9](=[O:10])[N-:11][N+:12]([CH3:13])=[C:14]([C:15]#[N:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[N:11]([C:9]([O:8][CH3:7])=[O:10])[N:12]([CH3:13])[C:14]1([C:15]#[N:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,26.84626809801461,-9.904395212896684
